US08247429B2
ethyl 9-(cyanomethyl)-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate
To a solution of 6,7-dihydro-5H-cyclopenta[c]pyridin-7-ylacetonitrile (1.77 g, 11.2 mmol) in acetonitrile (22 mL) was added 1-(aminooxy)-2,4-dinitrobenzene (5.00 g, 25.1 mmol), and the mixture was stirred at 40° C. for 16 hr. The solvent was evaporated under reduced pressure. Half of the residue was dissolved in dimethylformamide (22 mL), ethyl propiolate (681 μL, 6.72 mmol) and potassium carbonate (1.55 g, 11.2 mmol) were added, and the mixture was stirred at room temperature for 3 hr. The reaction solution was diluted with water, and the mixture was extracted with diethyl ether. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→50/50) to give the title compound (440 mg).

reactant | 6,7-dihydro-5H-cyclopenta[c]pyridin-7-ylacetonitrile | 11.2 mmol, 1.77 g | C1=NC=CC2=C1C(CC2)CC#N | C10H10N2
reactant | 1-(aminooxy)-2,4-dinitrobenzene | 25.1 mmol, 5.00 g | NOC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H5N3O5
reactant | ethyl propiolate | 6.72 mmol, 681 μL | C(C#C)(=O)OCC | C5H6O2
reactant | potassium carbonate | 11.2 mmol, 1.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 22 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | ethyl 9-(cyanomethyl)-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 440 mg | C(#N)CC1CCC2=C1C=1N(C=C2)N=CC1C(=O)OCC | C15H15N3O2
